US06982348B2
To a solution of ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-(4-methoxybenzyl)propionate (22.8 g, 68.6 mmol) in methanol (100 ml) was added 2N aqueous sodium hydride solution (69 ml, 0.137 mol) and the mixture was stirred at room temperature for 4 hrs. The reaction solution was acidified with 6N hydrochloric acid, water (300 ml) was added, and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was crystallized from a mixture of hexane and diethyl ether to give (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-(4-methoxybenzyl)propionic acid (14.8 g, 71%).

reactant | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-(4-methoxybenzyl)propionate | 68.6 mmol, 22.8 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)OC)O | C19H21FO4
reactant | sodium hydride | 0.137 mol, 2N, 69 ml | [H-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | water | 300 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-(4-methoxybenzyl)propionic acid | 14.8 g, 71% | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC=C(C=C1)OC)O | C17H17FO4
